US08193351B2
Step 8: 4-(5-Chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine
m-Chloroperbenzoic acid (7.10 g, 31.9 mmol) was added to a solution of 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfamyl-[1,3,5]triazin-2-ylamine (10.0 g, 29.0 mmol) in methylene chloride (100 mL) at room temperature. After the reaction solution was stirred at room temperature for 15 hours, the precipitate was collected by filtration. The resulting precipitate was suspended in methylene chloride, and stirred at room temperature for 3 hours. The insoluble material was collected by filtration, washed with methylene chloride, and dried under reduced pressure. The title compound was obtained as light brown solid (8.34 g, 79%).

reactant | m-Chloroperbenzoic acid | 31.9 mmol, 7.10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfamyl-[1,3,5]triazin-2-ylamine | 29.0 mmol, 10.0 g | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)S(NC)(=O)=O)N | C17H15ClN6O3S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-Chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)S(=O)C)N | C17H14ClN5O2S
